US08980877B2
(±)-(E)-3-[1′-Acetyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester (500 mg, 1.40 mmol) was hydrolyzed with HCl and AcOH following the procedure described in Example 22, Step A, giving (E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid as a white solid (475 mg, 98.9%). The acid was treated with NH2OTHP according to the procedure described in Example 22, Step C, giving (E)-3-[1-acetyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (416 mg, 69.7%). Finally, removal of THP protecting group following the procedure described in Example 23, Step D gave (±)-(E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-N-hydroxy-acrylamide (43 mg).

reactant | (±)-(E)-3-[1′-Acetyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester | 1.40 mmol, 500 mg | COC(\C=C\C=1C=C2C(CC3(CCN(CCC3)C(C)=O)OC2=CC1)=O)=O | C20H23NO5
reactant | HCl | Cl | ClH
solvent | AcOH | CC(=O)O | C2H4O2
product | (E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid | 475 mg, 98.9% | C(C)(=O)N1CCC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C19H21NO5
